US06515011B2
To a stirred solution of ethyl 2-hydroxy-2,5-dimethyl-3-hexynoic acid from the previous step (0.033 g, 0.21 mmol), L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (0.080 g, 0.22 mmol) and HOBT hydrate (0.088 g, 0.24 mmol) in DMF (3 mL) was added EDC (0.032 g, 0.24 mmol). Diisopropylethylamine was then added in portions (˜0.15 mL total) to bring the pH of the solution to 6-7 as measured on wetted E. Merck pH indicator strips. The mixture was stirred at ambient temperature for 2 days, at which time HPLC analysis indicated complete consumption of the proline starting material. The DMF was removed under reduced pressure and the residue was partitioned between EtOAc (40 mL) and saturated aqueous NaHCO3 (10 mL). The EtOAc layer was separated, dried over anhydrous MgSO4, and filtered. The filtrate solvent was removed under reduced pressure and the oil residue was purified by preparative reverse-phase HPLC using a Waters PrepPak column and a gradient of 5-95% CH3CN:H2O with 0.1% TFA as eluant over 60 min. The product-containing fractions were combined and lyophilized to give 1-(2,5-dimethyl-2-hydroxy-3-hexynoyl)-N-(2-tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)-L-prolinamide as a white solid. (72 mg, 68%; HPLC RT=2.61 min, method B; LC-MS M+H=506). 1H NMR, 400 MHz, DMSO-d6, 8.22 ppm (d, J=15.9 Hz, 2H); 7.17-7.32 ppm (m, 2H); 4.25-4.30 ppm (m, 2H), 4.06 ppm (s, 2H); 3.69-3.73 ppm (m, 1H); 2.51-2.56 ppm (m, 1H); 2.07-2.09 ppm (m, 2H); 1.91-1.94 ppm (m, 2H); 1.68-1.78 ppm (m, 2H); 1.45 ppm, (d, J=7.69 Hz, 3H); 1.35 ppm (s, 9H); 1.04-1.08 ppm, (m, 6H).

reactant | ethyl 2-hydroxy-2,5-dimethyl-3-hexynoic acid | C(C)C(C#CC(C(=O)O)(C)O)(C)C | C10H16O3
reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.22 mmol, 0.080 g | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | HOBT hydrate | 0.24 mmol, 0.088 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 0.24 mmol, 0.032 g
reactant | Diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(2,5-dimethyl-2-hydroxy-3-hexynoyl)-N-(2-tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)-L-prolinamide | CC(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)(C#CC(C)C)O | C26H36ClN3O5
